US07622479B2
6-Chloro-3-nitro-2-pyridine amine (1.2 g), phenol (3.1 g) and sodium methoxide (0.4 g) were dissolved in acetonitrile (20 ml), and the solution was heated for 12 hours under reflux. After the completion of the reaction, the solvent was distilled off under reduced pressure. The residue was distributed into ethyl acetate and a saturated aqueous solution of sodium bicarbonate. The organic layer was washed with water and dried over MgSO4. The solvent was distilled off under reduced pressure, and the residue was subjected to silica gel column chromatography. The fraction eluted with ethyl acetate-hexane (1:10, v/v) was concentrated under reduced pressure. The resulting crystals were collected by filtration to obtain 3-nitro-6-phenoxy-2-pyridine amine (1.1 g, 66%).

reactant | 6-Chloro-3-nitro-2-pyridine amine | 1.2 g | ClC1=CC=C(C(=N1)N)[N+](=O)[O-] | C5H4ClN3O2
reactant | phenol | 3.1 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium methoxide | 0.4 g | C[O-].[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 3-nitro-6-phenoxy-2-pyridine amine | 1.1 g, 66% | [N+](=O)([O-])C=1C(=NC(=CC1)OC1=CC=CC=C1)N | C11H9N3O3
